US09284271B2
N-(2-(5-Chloro-1H-indol-3-yl)ethyl)biphenyl-3-carboxamide was obtained following Method C starting from 2-(5-chloro-1H-indol-3-yl)ethanamine hydrochloride (0.100 g, 0.424 mmol), biphenyl-3-carbonyl chloride (0.0965 g; 0.445 mmol), and triethylamine (0.145 mL; 1.06 mmol) in dichloromethane (5 mL). Flash chromatography on silica gel (eluent 2 to 20% ethyl acetate in dichloromethane) furnished 0.0565 g (36%) of N-(2-(5-Chloro-1H-indol-3-yl)ethyl)biphenyl-3-carboxamide as a white solid.

reactant | 2-(5-chloro-1H-indol-3-yl)ethanamine hydrochloride | 0.424 mmol, 0.100 g | Cl.ClC=1C=C2C(=CNC2=CC1)CCN
reactant | biphenyl-3-carbonyl chloride | 0.445 mmol, 0.0965 g | C1(=CC(=CC=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | triethylamine | 1.06 mmol, 0.145 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(2-(5-Chloro-1H-indol-3-yl)ethyl)biphenyl-3-carboxamide | 0.0565 g, 36% | ClC=1C=C2C(=CNC2=CC1)CCNC(=O)C=1C=C(C=CC1)C1=CC=CC=C1 | C23H19ClN2O
